US04436748
A mixture of 26.8 g of 6,7-dichloro-2-(2'-chlorophenyl)-5-methoxybenzo[b]thiophene and 260 g of pyridine hydrochloride is heated at 190°-200° for 4.5 hrs. To the cooled mixture is added 800 ml of water and the aqueous mixture is extracted with three 400-ml portions of ethyl ether. The organic layers are collected, washed with 400 ml of 2 N hydrochloric acid and with 200 ml of water. The organic layer is dried over anhydrous magnesium sulfate, decolorized (charcoal) overnight and the solvent is removed. Recrystallization from acetone-hexane gives 18.6 g of 6,7-dichloro-2-(2'-chlorophenyl)-5-hydroxybenzo[b]thiophene, mp 174°-175°.

reactant | 6,7-dichloro-2-(2'-chlorophenyl)-5-methoxybenzo[b]thiophene | 26.8 g | ClC=1C(=CC2=C(SC(=C2)C2=C(C=CC=C2)Cl)C1Cl)OC | C15H9Cl3OS
reactant | pyridine hydrochloride | 260 g | Cl.N1=CC=CC=C1
solvent | water | 800 ml | O | H2O
product | 6,7-dichloro-2-(2'-chlorophenyl)-5-hydroxybenzo[b]thiophene | 18.6 g | ClC=1C(=CC2=C(SC(=C2)C2=C(C=CC=C2)Cl)C1Cl)O | C14H7Cl3OS
